datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](C2=CC=CC=C2)=[NH+:12][C:63](C)=[O:64])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:11]2=[N:10]CC[NH:12]2)C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2CC[NH+:12]=[C:11]2C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10]>>CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(Cl)C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([CH:11]=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[O:72][C:61]([N:10]=[C:11](C)[O-:12])=[O:62]>>CC[O:72][C:61]([N:10]([C:11](C)=[O:12])[CH:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61](C2=CC=CC=C2)=[O:62])C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:61](C2=CC=CC=C2)=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:10](C)=[C:11](C)C>>C[C:10](C)([C+:11](C)C)[CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10,11=10,20;20,21=21"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([P+:10](C1=CC=C(C)C=C1)(C1=CC=C(C)C=C1)C1=CC=C(C)C=C1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Mo-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC12C3(C)C4(C)C5(C)C1(C)[Mo-2:11]2345(C#[O+])(C#[O+])C#[O+].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61]3=[C:62](C=CC=C3)[N:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CC[O:33][C:22](=[CH:21][CH:20](C)[H:10])[O-:23].[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([H:10])C5C1C2C3C54>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C5C1C2C3C54 10,11=10,20"
